US08710223B2
A mixture of 3-cyclopropyl-2-fluoro-5-nitroaniline (1.27 g, 6.47 mmol, 1 equiv), trimethylsilyl azide (4.26 mL, 32.37 mmol, 5 equiv), trimethylorthoformate (7.09 mL, 67.74 mmol, 10 equiv) in AcOH (15 mL) was heated to 70° C. and stirred for 7 hours behind a blast shield. After allowing to cool to room temperature, the mixture was further cooled in ice-water and basified to ca. pH 12-14 with 1N NaOH and diluted with EtOAc. The aqueous and organic layers were partitioned and the aqueous extracted with EtOAc (2×200 mL). The combined organic extracts were washed with 1N NaOH (1×200 mL), dried (Na2SO4), filtered, and the solvent removed under vacuum—silica gel was added at this stage so that the crude product was absorbed directly on to silica gel. The crude product was purified by column chromatography on silica gel using EtOAc/hexanes (30-50% EtOAc in increments of 10% EtOAc) to give the product 1-(3-cyclopropyl-2-fluoro-5-nitrophenyl)-1H-tetrazole (1.49 g, 92%) as a light-yellow solid.

reactant | 3-cyclopropyl-2-fluoro-5-nitroaniline | 6.47 mmol, 1.27 g, 1 equiv | C1(CC1)C=1C(=C(N)C=C(C1)[N+](=O)[O-])F | C9H9FN2O2
reactant | trimethylsilyl azide | 32.37 mmol, 4.26 mL, 5 equiv | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | trimethylorthoformate | 67.74 mmol, 7.09 mL, 10 equiv | COC(OC)OC | C4H10O3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-cyclopropyl-2-fluoro-5-nitrophenyl)-1H-tetrazole | 1.49 g, 92% | C1(CC1)C=1C(=C(C=C(C1)[N+](=O)[O-])N1N=NN=C1)F | C10H8FN5O2
